US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (92%). m.p. 95-98° C. 1H NMR (300 MHz, CDCl3) δ 8.05, 7.96, 7.74, 7.65-7.52, 7.35, 6.99, 4.08-3.22, 1.55-1.46, 0.80-0.67, 0.48-0.42, 0.10-0.07. 13C NMR (75 MHz, CDCl3) δ 167.6, 162.9, 160.0, 145.4, 134.2, 132.3, 129.5, 127.2, 127.1, 126.9, 121.8, 118.2, 112.5, 46.3, 44.5, 44.4, 41.2, 39.6, 34.5, 8.6, 4.2. MS (ES+) m/z 448.2 (M+1).

reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H24F3N5O2
